US04183909
2.25 g (5.93 mmoles) of H-Leu-Asp-D-Phg-NH2, prepared as described in Example 5, Step 2, are dissolved in a mixture of 50 ml of DMF and 10 ml of HMFA, and 0.84 ml (5.93 mmoles) of triethylamine and 2.65 g (6.6 mmoles) of BOC-Trp-OSu are added to the solution. The reaction mixture is stirred for 4 hours, whereupon a clear mixture is obtained. The mixture is allowed to stand overnight, and then DMF is evaporated in vacuo. The residual mixture containing HMFA is diluted with water, the obtained suspension is allowed to stand at a cool place, and then the precipitate is filtered off. The resulting crude product, weighing 4.31 g, is boiled twice in ethyl acetate, and the suspension is filtered when hot. 2.87 g (72.8%) of BOC-Trp-Leu-Asp-D-Phg-NH2 are obtained; m.p.: 195°-200° C., Rf5 : 0.55. The product is used in the next step without further purification.

reactant | H-Leu-Asp-D-Phg-NH2 | 5.93 mmoles, 2.25 g | N[C@@H](CC(C)C)C(=O)N[C@@H](CC(O)=O)C(=O)N[C@H](C1=CC=CC=C1)C(=O)N | C18H26N4O5
reactant | triethylamine | 5.93 mmoles, 0.84 ml | C(C)N(CC)CC | C6H15N
reactant | BOC-Trp-OSu | 6.6 mmoles, 2.65 g | N([C@@H](CC1=CNC2=CC=CC=C12)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C20H23N3O6
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | BOC-Trp-Leu-Asp-D-Phg-NH2 | 2.87 g, 72.8% | N([C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(O)=O)C(=O)N[C@H](C1=CC=CC=C1)C(=O)N)C(=O)OC(C)(C)C | C34H44N6O8
